US07718668B2
(2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol ethansulfonate
(2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol (1.5 g; 3.64 mmol) is dissolved in 9 ml of 4-methyl-2-pentanone. The solution is heated up to 50° C. 312 μl (3.82 mmol) of ethansulfonic acid are added. After crystallisation 3 ml 4-methyl-2-pentanon is added and the suspension is stirred over night. The crystals are filtered off and dried to obtain 1.78 g (94%) of the title compound (m.p.: 216° C.).

reactant | (2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol | 3.64 mmol, 1.5 g | COC1=NC(=CC=C1C1=N[C@@H]2CC[C@H](C[C@@H]2C2=CC(=C(C=C12)OC)OCC)O)OC | C23H28N2O5
reactant | ethansulfonic acid | 3.82 mmol, 312 μl | C(C)S(=O)(=O)O | C2H6O3S
solvent | 4-methyl-2-pentanone | 9 ml | CC(CC(C)=O)C | C6H12O
product | (2R,4aR,10bR)-6-(2,6-Dimethoxy-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol ethansulfonate | 1.78 g, 94% | C(C)S(=O)(=O)O[C@H]1C[C@@H]2C3=CC(=C(C=C3C(=N[C@@H]2CC1)C=1C(=NC(=CC1)OC)OC)OC)OCC | C25H32N2O7S
